US05270309
A solution of methyl-7-bromo-5-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (0.40 g) in water (10 ml) containing sodium hydroxide (0.22 g) was refluxed for 10 minutes, then acidified with cHCl. The precipitate was collected and recrystallised from H2O/EtOH/NaOH on addition of cHCl to give 7-bromo-5-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.35 g), mp 299° C. (dec.). m/e 283, 281 (M+); δ (360 MHz, NaOD-D2O) 2.86 (3H, s, CH3), 6.85 (1H, s, 3-H), 7.22 (1H, d, 6-H) and 7.83 (1H. d, 8-H).

reactant | methyl-7-bromo-5-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.40 g | COC(=O)C=1NC2=CC(=CC(=C2C(C1)=O)C)Br | C12H10BrNO3
reactant | sodium hydroxide | 0.22 g | [OH-].[Na+]
reactant | cHCl | [CH]Cl | CHCl
solvent | water | 10 ml | O | H2O
product | 7-bromo-5-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.35 g | BrC1=CC(=C2C(C=C(NC2=C1)C(=O)O)=O)C | C11H8BrNO3
